US07320979B2
A flask containing 45 mg of palladium(II) acetate (0.2 mmol), 126 mg of BINAP (0.20 mmol) and 0.233 mg of sodium tert-butylate in dry toluene (15 mL) was flushed with nitrogen 1.275 g of 1-allylpiperazin (10 mmol) were added and the reaction mixture was heated to 50° C. 630 mg of 4-isopropyl-benzenesulfonic acid 6-chloro-pyridin-3-yl ester (2.0 mmol) were dissolved in toluene and the solution was slowly added over a period of 10 minutes into the reaction mixture with stirring. The mixture was heated to reflux with stirring for 7 h. Thereby 4-isopropyl-benzenesulfonic acid 6-(4-allyl-piperazin-1-yl)-pyridin-3-yl ester was obtained in 21% yield.

reactant | BINAP | 0.20 mmol, 126 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | 1-allylpiperazin | 10 mmol | C(C=C)N1CCNCC1 | C7H14N2
reactant | 4-isopropyl-benzenesulfonic acid 6-chloro-pyridin-3-yl ester | 2.0 mmol, 630 mg | ClC1=CC=C(C=N1)OS(=O)(=O)C1=CC=C(C=C1)C(C)C | C14H14ClNO3S
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium(II) acetate | 0.2 mmol, 45 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 4-isopropyl-benzenesulfonic acid 6-(4-allyl-piperazin-1-yl)-pyridin-3-yl ester | 21% yield | C(C=C)N1CCN(CC1)C1=CC=C(C=N1)OS(=O)(=O)C1=CC=C(C=C1)C(C)C | C21H27N3O3S
